US04863938
8.3 g (76 mmol) of 6-amino-2-hydroxypyridine and 20 g (114 mmol) of N,N-di-n-propylformamide dimethyl acetal are placed in 70 ml of xylene under argon. .The whole is heated at 100° for 1/2 hour while stirring It is then allowed to cool, is concentrated by evaporation under a water-jet vacuum and the residue is filtered over 10 times the amount of Florisil using methylene chloride. The fractions containing the product are concentrated by evaporation and then crystallised from n-hexane. N-(2-hydroxy-6-pyridyl)-N',N'-di-n-propylformamidine and N-(2-pyridon-6-yl)-N',N'-di-n-propylformamidine having a melting point of 102°-104° are obtained.

reactant | 6-amino-2-hydroxypyridine | 76 mmol, 8.3 g | NC1=CC=CC(=N1)O | C5H6N2O
reactant | N,N-di-n-propylformamide dimethyl acetal | 114 mmol, 20 g | COC(N(CCC)CCC)OC | C9H21NO2
solvent | xylene | 70 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2-pyridon-6-yl)-N',N'-di-n-propylformamidine | CCCN(CCC)C=NC1=CC=CC(=O)N1 | C12H19N3O
